US06528525B1
2-Butyl-3-[4-[2-(2′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-219 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(2′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (750 mg), which is the product of Example 42, was reacted with aqueous sodium hydroxide solution (1N, 5.00 ml) and the reaction mixture was treated to give the title compound (625 mg) as a pale orange powder.

reactant | ethyl 2-butyl-3-[4-[2-(2′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 750 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)OC | C31H37NO5
reactant | sodium hydroxide | 1N, 5.00 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(2′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 625 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)OC | C29H33NO5
